US08686048B2
Intermediate 26: 3,5-difluoro-3′-butoxybiphenyl-4-amine
The title compound (0.104 g) was prepared from 4-bromo-2,6-difluoroaniline (0.2 g, 0.96 mmol) and 3-butoxyphenylboronic acid (0.242 g, 1.2 mmol) as a colourless liquid.

reactant | 4-bromo-2,6-difluoroaniline | 0.96 mmol, 0.2 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-butoxyphenylboronic acid | 1.2 mmol, 0.242 g | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3,5-difluoro-3′-butoxybiphenyl-4-amine | 0.104 g | FC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCCCC | C16H17F2NO
